US06130238
5-Fluoro-2-oxindole
5-Fluoroisatin (8.2 g) was dissolved in 50 mL of hydrazine hydrate and refluxed for 1.0 hr. The reaction mixtures were then poured in ice water. The precipitate was then filtered, washed with water and dried under vacuum oven afford the title compound.

reactant | 5-Fluoroisatin | 8.2 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
solvent | hydrazine hydrate | 50 mL | O.NN
product | 5-Fluoro-2-oxindole | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
